US08097628B2
To a solution of N2-((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)-6-(methyloxy)-2,3-pyridinediamine (673.1 g, 1.612 mol) in DMF (10 L) was added K2CO3 (490.1 g, 3.546 mol). Ethyl bromoacetate (196.6 ml, 1.77 mol) was added to the mixture over 15 min and the reaction mixture was stirred at room temperature. After 3 h, the reaction was quenched in H2O (10 L) then partitioned with EtOAc (10 L). The layers were separated and the aqueous was extracted with EtOAc (7 L). The organic phases were combined, washed with H2O (7 L) and brine (7 L), dried over MgSO4 (1 kg), filtered and evaporated. The resulting dark oil (853 g) was purified by column chromatography (9 kg silica, mixtures of heptane and EtOAc as eluent) to give ethyl N-[2-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)amino]-6-(methyloxy)-3-pyridinyl]glycinate (672.0 g, 83%) as a dark oil.

reactant | N2-((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)-6-(methyloxy)-2,3-pyridinediamine | 1.612 mol, 673.1 g | CC(C)(C)[Si](OC[C@H](COCC1=CC=CC=C1)NC1=NC(=CC=C1N)OC)(C)C | C22H35N3O3Si
reactant | K2CO3 | 3.546 mol, 490.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Ethyl bromoacetate | 1.77 mol, 196.6 ml | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 10 L | CN(C)C=O | C3H7NO
product | ethyl N-[2-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)amino]-6-(methyloxy)-3-pyridinyl]glycinate | 672.0 g, 83% | CC(C)(C)[Si](OC[C@H](COCC1=CC=CC=C1)NC1=NC(=CC=C1NCC(=O)OCC)OC)(C)C | C26H41N3O5Si
